US04954507
3-HYDROXY-4-AMINOMETHYL-PYRROLIDINE, DIHYDROCHLORIDE
A solution of 2.19 g (10.6 mmol) of 3-hydroxy-4-aminomethyl-1-phenylmethyl pyrrolidine in 60 ml anhydrous methanol and 5.3 ml 5N hydrochloric acid in ethanol was hydrogenized over 1.83 g palladium on carbon for 17 hours. The catalyst was filtered off, the solvent removed to afford 1.39 g (70%) of title compound.

reactant | 3-hydroxy-4-aminomethyl-1-phenylmethyl pyrrolidine | 10.6 mmol, 2.19 g | OC1CN(CC1CN)CC1=CC=CC=C1 | C12H18N2O
reactant | hydrochloric acid | 5N, 5.3 ml | Cl | ClH
solvent | methanol | 60 ml | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | 1.83 g | [Pd] | Pd
product | 3-HYDROXY-4-AMINOMETHYL-PYRROLIDINE, DIHYDROCHLORIDE | 1.39 g, 70% | Cl.Cl.OC1CNCC1CN | InChI=1S/C5H12N2O.2ClH/c6-1-4-2-7-3-5(4)8;;/h4-5,7-8H,1-3,6H2;2*1H
